US08247403B2
(3) 9-cyclopentyl-2,3,4,5-tetrahydro-1,4-benzoxazepine hydrochloride
A mixture of tert-butyl 9-cyclopentyl-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (130 mg, 0.410 mmol), ethyl acetate (1 ml) and 4N hydrogen chloride-ethyl acetate solution (4 ml) was stirred for 1 hr at room temperature, and the solvent was evaporated under reduced pressure. The residue was recrystallized from a mixed solvent of methanol and ether to give the desired product (81.3 mg, 78.2%) as a solid.

reactant | tert-butyl 9-cyclopentyl-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 0.410 mmol, 130 mg | C1(CCCC1)C1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C | C19H27NO3
reactant | hydrogen chloride-ethyl acetate | 4N, 4 ml | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
product | 9-cyclopentyl-2,3,4,5-tetrahydro-1,4-benzoxazepine hydrochloride | 81.3 mg, 78.2% | Cl.C1(CCCC1)C1=CC=CC=2CNCCOC21 | InChI=1S/C14H19NO.ClH/c1-2-5-11(4-1)13-7-3-6-12-10-15-8-9-16-14(12)13;/h3,6-7,11,15H,1-2,4-5,8-10H2;1H
